US04816469
3-Trifluoromethyl-5-methylbenzaldehyde
A solution fo oxalyl chloride (2.8 ml) in 20 ml of CH2Cl2 is treated with a solution of dimethyl sulfoxide (DMSO)(5.0 ml) in 15 ml of CH2Cl2 at -60° C. as in Example 11 To this mixture is added the 3-trifluoromethyl-5-methylbenzyl alcohol (5.4 g) in CH2Cl2 (20 ml) followed by 20 ml of triethlyamine. Appropriate reaction conditions and work-up as in Example 11 afforded 3-trifluoro- methyl-5-methylbenzaldehyde.

reactant | oxalyl chloride | 2.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 5.0 ml | CS(=O)C | C2H6OS
reactant | 3-trifluoromethyl-5-methylbenzyl alcohol | 5.4 g | FC(C=1C=C(CO)C=C(C1)C)(F)F | C9H9F3O
reactant | triethlyamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-Trifluoromethyl-5-methylbenzaldehyde | FC(C=1C=C(C=O)C=C(C1)C)(F)F | C9H7F3O
